US04956332
Preparation of 1,4-bis(p-tolyloxy)benzene
A three-necked flask equipped with a distilling receiver and a magnetic stirrer was charged with 32.4 g (0.30 moles) of p-cresol, and 16.8 g (0.30 moles) of potassium hydroxide was added into the flask while stirring the resultant reaction mixture at a temperature of 150° C. to provide a potassium salt of p-cresol. To the resultant p-cresol potassium salt melt were gradually mixed 100 ml of toluene, and the resultant reaction mixture was subjected to azeotropic distillation to remove water from the reaction mixture. After 50 ml of toluene were distilled away, the remaining reaction mixture was mixed with a solution of 23.6 g (0.10 moles) of p-dibromobenzene dissolved in 10 ml of hot toluene, and then with a catalyst consisting of 2.0 g of anhydrous copper chloride (II), and the resultant reaction mixture was refluxed for 8 hours while stirring.

reactant | p-cresol potassium salt | [K].C1=CC(=CC=C1O)C
reactant | p-dibromobenzene | 0.10 moles, 23.6 g | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper chloride | 2.0 g | [Cu](Cl)Cl
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-bis(p-tolyloxy)benzene | C1(=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C)C | C20H18O2
